US04460774
With 1.1 g of sodium hydride (50% purity) was mixed 50 ml of DMF, and 4.6 g of 1-n-hexyl-2,3-dioxopiperazine was added thereto with stirring at room temperature over a period of 10 minutes. Subsequently, the resulting mixture was subjected to reaction at 50° to 60° C. for 30 minutes, and 5.5 g of p-nitrobenzyl bromide was added to the reaction mixture over a period of 10 minutes, after which the mixture thus obtained was further subjected to reaction at 50° to 60° C. for 2 hours. The solvent was removed by distillation under reduced pressure. The residue was extracted with 70 ml of ethyl acetate, and the ethyl acetate layer was washed with water and then a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate, after which the solvent was removed by distillation under reduced pressure. The crystals thus obtained were recrystallized from isopropyl alcohol to obtain 4.0 g (51.9% yield) of 1-n-hexyl-4-(4-nitrobenzyl)-2,3-dioxopiperazine having a melting point of 115° to 117° C.

reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | 1-n-hexyl-2,3-dioxopiperazine | 4.6 g | C(CCCCC)N1C(C(NCC1)=O)=O | C10H18N2O2
reactant | p-nitrobenzyl bromide | 5.5 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-n-hexyl-4-(4-nitrobenzyl)-2,3-dioxopiperazine | 4.0 g, 51.9% yield | C(CCCCC)N1C(C(N(CC1)CC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C17H23N3O4
